US07956070B2
Step 3: 5-[(2,2,2-Trifluoroethyl)thio]-1H-1,2,3-triazole-4-carboxylic acid
Ethyl 5-[(2,2,2-trifluoroethyl)thio]-1H-1,2,3-triazole-4-carboxylate (0.086 g) was suspended in 1N aqueous sodium hydroxide solution and heated at 70° C. for 3 h. The reaction mixture was filtered and then acidified with concentrated hydrochloric acid. Concentration in vacuo afforded a colourless solid which was washed with ice cold water to afford the subtitle compound (0.080 g)

reactant | Ethyl 5-[(2,2,2-trifluoroethyl)thio]-1H-1,2,3-triazole-4-carboxylate | 0.086 g | FC(CSC1=C(N=NN1)C(=O)OCC)(F)F | C7H8F3N3O2S
solvent | sodium hydroxide | 1N | [OH-].[Na+]
product | 5-[(2,2,2-Trifluoroethyl)thio]-1H-1,2,3-triazole-4-carboxylic acid | 0.080 g | FC(CSC1=C(N=NN1)C(=O)O)(F)F | C5H4F3N3O2S
